US04362736
In 35 ml of methanol was dissolved 4.72 g of methyl 3-[(2-guanidinothiazol-4-yl)methylthio]propionimidate and then 25 ml of a methanol solution of free hydroxylamine prepared by treating 1.2 g of hydroxylamine hydrochloride with 0.93 g of sodium methoxide was added to the solution. After stirring the mixture for 2 hours at room temperature, the solvent was distilled off under reduced pressure and the residue formed was purified by a column chromatography using a mixed solvent of chloroform and methanol as a developing solvent and recrystallized from methanol-acetone to provide 1.3 g of 3-[(2-guanidinothiazol-4-yl)methylthio]propionamidoxime. The product has the following physicochemical properties:

reactant | methyl 3-[(2-guanidinothiazol-4-yl)methylthio]propionimidate | 4.72 g | N(C(=N)N)C=1SC=C(N1)CSCCC(OC)=N | C9H15N5OS2
reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine hydrochloride | 1.2 g | Cl.NO
reactant | sodium methoxide | 0.93 g | C[O-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 3-[(2-guanidinothiazol-4-yl)methylthio]propionamidoxime | 1.3 g | N(C(=N)N)C=1SC=C(N1)CSCCC(N)=NO | C8H14N6OS2
